US07153872B2
3-Methyl-3H-benzotriazole-5-carboxylic acid (1.67 g, 5.6 mmol) was suspended in 25 ml N,N-dimethylformamide. 1,1′-carbonyldiimidazole (1.0 g, 6.2 mmol) was added and the reaction stirred at room temperature for 90 minutes. Then, N,O-dimethylhydroxylamine hydrochloride (593 mg, 6.2 mmol) was added and the reaction stirred at room temperature overnight. The solvent was removed by rotary evaporation. The residue was dissolved in saturated aqueous ammonium chloride solution and extracted three times with chloroform. The combined organics were dried over sodium sulfate, filtered and concentrated to dryness. Crude material was purified on Biotage Flash 40S silica gel column using chloroform/methanol gradient system (100:0 to 97:3, respectively) as eluent to afford 3-methyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide (1.01 g, 82%).

reactant | 3-Methyl-3H-benzotriazole-5-carboxylic acid | 5.6 mmol, 1.67 g | CN1N=NC2=C1C=C(C=C2)C(=O)O | C8H7N3O2
reactant | 1,1′-carbonyldiimidazole | 6.2 mmol, 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 6.2 mmol, 593 mg | Cl.CNOC
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-methyl-3H-benzotriazole-5-carboxylic acid methoxy-methyl-amide | 1.01 g, 82% | CON(C(=O)C1=CC2=C(N=NN2C)C=C1)C | C10H12N4O2
